US04775692
To a solution of dimethyl methylphosphonate (7.18 g, 57.5 mmol) in anhydrous THF (100 ml) was added under argon atmosphere a solution of n-butyl lithium in hexane (1.61N, 35.7 ml, 57.5 mmol) at 31 78° C. The reaction mixture was stirred for 30 min. and a solution of ethyl 2,2-dimethyl-4-oxahexanoate (4.00 g, 23.0 mmol) in anhydrous THF (15 ml) was added at -78° C. The resulting mixture was stirred for 30 min., allowed to warm to room temperature and stirred for one hour. The resulting mixture was then neutralized with acetic acid, then water (20 ml) was added, and the mixture was concentrated. Ethyl acetate (120 ml) and water (30 ml) were added to the residue. The organic layer was separated, washed with water (50 ml) and with brine, dried over anhydrous magnesium sulfate, and concentrated. Distillation of the residue (b.p. 106°-110° C./0.4 mmHg) gave dimethyl 3,3-dimethyl- 2-oxo-5-oxaheptylphosphonate (4.19 g, 16.6 mmol, 72.2%) as an oily material. The product was assigned the structure by the following data.

reactant | dimethyl methylphosphonate | 57.5 mmol, 7.18 g | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 57.5 mmol, 1.61N, 35.7 ml | CCCCCC | C6H14
reactant | ethyl 2,2-dimethyl-4-oxahexanoate | 23.0 mmol, 4.00 g | CC(C(=O)OCC)(COCC)C | C9H18O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | dimethyl 3,3-dimethyl- 2-oxo-5-oxaheptylphosphonate | 16.6 mmol, 4.19 g, 72.2% | CC(C(CP(OC)(OC)=O)=O)(COCC)C | C10H21O5P
